US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (250 mg, 1.255 mmol) in NMP (1 mL), was added powdered KOH (490 mg, 8.75 mmol). After stirring for 5 min, 3-methyl-4-vinyl-thiophene (310 mg, 2.50 mmol) was added into the reaction mixture, which was stirred at 85° C. for 16 h. The reaction mixture was diluted with water (15 mL) and extracted with EtOAc (3×20 mL). The organic layer was washed with water (6×30 mL), dried over anhydrous sodium sulfate and concentrated. The crude product was purified by column chromatography using silica (100:200) and 2% MeOH-DCM, followed by reverse phase HPLC to yield 1.10 mg of 2,8-dimethyl-5-[2-(4-methyl-thiophen-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.3 (d, 1H), 7.24 (s, 1H), 7.07 (d, 1H), 6.92 (s, 1H), 6.78 (s, 1H), 4.6 (d, 1H), 4.3 (m, 3H), 3.62 (m, 1H), 3.3 (m, 3H), 3.0 (m, 4H), 2.8 (m, 1H), 2.4 (s, 3H), 1.95 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.255 mmol, 250 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 8.75 mmol, 490 mg | [OH-].[K+]
reactant | 3-methyl-4-vinyl-thiophene | 2.50 mmol, 310 mg | CC1=CSC=C1C=C | C7H8S
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 2,8-dimethyl-5-[2-(4-methyl-thiophen-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.10 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=CSC=C2C)CC1 | C20H24N2S
